US08492409B2
(2) Synthesis of ethyl 3-bromo-1-(3,5-dichloropyridin-2-yl)-1H-pyrazole-5-carboxylate
To a 100 mL flask, ethyl 3-bromo-1-(3,5-dichloropyridin-2-yl)-4,5-dihydro-1H-pyrazole-5-carboxylate (2.0 g, 5.4 mmol), acetonitrile (10 mL) and 98% sulfuric acid (1.1 g, 10.9 mmol) were added. The mixture was stirred for a few minutes, and then potassium persulfate (2.4 g, 8.7 mmol) was added. The reaction mixture was heated to reflux for 5 hours. The warm (50-65° C.) reaction mixture was filtered, a cake is obtained. The cake was washed by acetonitrile (10 mL). The filtrate was concentrated to about 10 mL on rotary evaporator. Then water (50 mL) was added. The solid product was isolated by filtration, washed with 25% aqueous solution of acetonitrile (3×15 mL) and dried to give the product (1.6 g) as orange solid in 80% yield.

reactant | ethyl 3-bromo-1-(3,5-dichloropyridin-2-yl)-4,5-dihydro-1H-pyrazole-5-carboxylate | 5.4 mmol, 2.0 g | BrC1=NN(C(C1)C(=O)OCC)C1=NC=C(C=C1Cl)Cl | C11H10BrCl2N3O2
reactant | sulfuric acid | 10.9 mmol, 1.1 g | S(O)(O)(=O)=O | H2O4S
reactant | potassium persulfate | 8.7 mmol, 2.4 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | ethyl 3-bromo-1-(3,5-dichloropyridin-2-yl)-1H-pyrazole-5-carboxylate | 1.6 g, 80% yield | BrC1=NN(C(=C1)C(=O)OCC)C1=NC=C(C=C1Cl)Cl | C11H8BrCl2N3O2
